US04381395
To a stirred suspension of N-cyano-N',S-dimethylisothiourea (19.4 g) in acetone (700 ml) was added dropwise a solution of m-chloroperbenzoic acid (80% purity, 38.8 g) in acetone (120 ml) at 20°-25° C. After stirring for 1 hr. at the same temperature, the reaction mixture was cooled in an ice bath for 1 hr. and the precipitate was filtered and washed with acetone to give N-cyano-N'-methyl-methylsulfinylformamidine (13.65 g). Yield 62.8%, m.p. 115.5°-116° C.

reactant | N-cyano-N',S-dimethylisothiourea | 19.4 g | C(#N)NC(SC)=NC | C4H7N3S
reactant | m-chloroperbenzoic acid | 38.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | acetone | 700 ml | CC(=O)C | C3H6O
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | N-cyano-N'-methyl-methylsulfinylformamidine | 13.65 g, Yield 62.8% | C(#N)NC(=NC)S(=O)C | C4H7N3OS
